US07709473B2
A solution of 365 mg of 1-(2-tert-butyl-8-chloro-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-6-yl)-cyclopentanecarboxylic acid ethyl ester and 590 mg of isopropylamine in THF (5.0 mL) was heated at reflux for two h. The solvent was removed and the residue was purified by silica gel chromatography to afford 1-(2-tert-butyl-8-isopropylamino-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-6-yl)-cyclopentanecarboxylic acid ethyl ester as an oil. MS (M+H+)=390.3.

reactant | 1-(2-tert-butyl-8-chloro-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-6-yl)-cyclopentanecarboxylic acid ethyl ester | 365 mg | C(C)OC(=O)C1(CCCC1)C=1N=C(C=2N(C1)C(N(N2)C(C)(C)C)=O)Cl | C17H23ClN4O3
reactant | isopropylamine | 590 mg | C(C)(C)N | C3H9N
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 1-(2-tert-butyl-8-isopropylamino-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-6-yl)-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CCCC1)C=1N=C(C=2N(C1)C(N(N2)C(C)(C)C)=O)NC(C)C | C20H31N5O3
